US04148914
(c) N,N-Dimethyl-N'-ethyl-1,2-cyclohexanediamine
A solution of the trans-N-[2-(N,N-dimethylamino)cyclohexyl]acetamide (acetyl compound) (5.03 g.; 0.027 mole) in 100 ml. of ether was added during 10 minutes to a solution of LAH (5.03 g.) in 300 ml. of ether and the mixture was refluxed 24 hours. It was cooled, decomposed in succession with 5 ml. of H2O, 5 ml. of 15% NaOH, and 15 ml. of H2O. The suspension was stirred 1 hour at room temperature, filtered and the cake washed with ether. The solvent was evaporated through a 9" Vigreux and the product distilled at 91° (13 mm), 3.5 g. (76% yield). ir NH3680 w, 3,300; CH 2960, 2920, 2850, 2820; N-alkyl 2780, CH/CN 1455, 1265, 1140, 1060, 1045, 1025, 1025. NMR in CDCl3 (100 MHz) was in accord. Mass spectrum M+ 170.

reactant | trans-N-[2-(N,N-dimethylamino)cyclohexyl]acetamide | 0.027 mole, 5.03 g | CN(C)[C@H]1[C@@H](CCCC1)NC(C)=O | C10H20N2O
reactant | ether | CCOCC | C4H10O
reactant | LAH | 5.03 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | [OH-].[Na+]
solvent | H2O | O | H2O
product | N,N-Dimethyl-N'-ethyl-1,2-cyclohexanediamine | 76% yield | CN(C1C(CCCC1)NCC)C | C10H22N2
